US08685969B2
8. 2-Formyl-5-methylbenzoic acid
To a homogeneous, colorless solution of 2-(hydroxymethyl)-5-methylbenzoic acid (0.6325 g, 3.81 mmol) in THF (35 mL) under nitrogen was added MnO2 (4.96 g, 57.1 mmol), and the reaction was stirred overnight. Additional MnO2 (˜3 g) was added, and the reaction was stirred overnight. The mixture was filtered through a pad of CELITE® and rinsed with THF. The filtrate was concentrated in vacuo to give the desired product (0.3302 g, 2.011 mmol, 52.8% yield) as an off-white solid.

reactant | 2-(hydroxymethyl)-5-methylbenzoic acid | 3.81 mmol, 0.6325 g | OCC1=C(C(=O)O)C=C(C=C1)C | C9H10O3
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 57.1 mmol, 4.96 g | O=[Mn]=O
catalyst | MnO2 | ˜3 g | O=[Mn]=O
product | 2-Formyl-5-methylbenzoic acid | 2.011 mmol, 0.3302 g, 52.8% yield | C(=O)C1=C(C(=O)O)C=C(C=C1)C | C9H8O3
